US08071595B2
To a stirred solution of 1-(pyridin-4-yl)-3-(1-(trimethylsilyloxy)cyclopentyl) prop-2-yn-1-one (1.1 g, 3.8 mmol) in DCM (15 mL) was added PTSA (0.87 g, 4.6 mmol) at RT and the reaction mixture was stirred for 1 h. The reaction mixture was diluted with water (2 mL), the organic layer was washed with a saturated NaHCO3 solution, water, dried over Na2SO4, filtered and then concentrated in vacuo to afford 341-hydroxycyclopentyl)-1-(pyridin-4-yl) prop-2-yn-1-one (0.42 g, 51%) as an oil.

reactant | 1-(pyridin-4-yl)-3-(1-(trimethylsilyloxy)cyclopentyl) prop-2-yn-1-one | 3.8 mmol, 1.1 g | N1=CC=C(C=C1)C(C#CC1(CCCC1)O[Si](C)(C)C)=O | C16H21NO2Si
reactant | PTSA | 4.6 mmol, 0.87 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
product | 1-(pyridin-4-yl) prop-2-yn-1-one | 0.42 g, 51% | N1=CC=C(C=C1)C(C#C)=O | C8H5NO
